Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
heparin / morphine
 
Attending: ___.
 
Chief Complaint:
abdominal pain and BRBPR
 
Major Surgical or Invasive Procedure:
CLS on ___

 
History of Present Illness:
___ with a history HTN, diabetes, DVT (on
AC), CKD (awaiting renal transplant), and adrenal insufficiency,
who presents with sudden onset right lower quadrant abdominal
pain after colonoscopy done on ___, diagnosed with
postpolypectomy syndrome (discharged on ___, now comes back
with abdominal pain and BRBPR. 

The patient presented after his colonoscopy on ___ with severe
___ in intensity abdominal pain in the right lower quadrant 
that
was radiating to the left, prompting an admission. CT scan at
that time was negative for perforation and he was thought to 
have
postpolypectomy syndrome. He was managed conservatively with
bowel rest, pain medications and antibiotics. His pain improved
to ___ in severity prior to discharge and he was passing
flatus with BM's. 

The patient now states that he had under exaggerated his pain
prior to his discharge last ___ so that he could get to his
sons (or ___ game. He continues to have ___ right 
lower
quadrant abdominal pain that radiates to the left lower 
quadrant.
Additionally, since ___, he's been having ___ bowel
movements that are dark in color and surrounded by blood at the
edges. He's continued to have these bowel movements into
yesterday, thereby prompting him to present again to the
hospital.
 
Past Medical History:
- CKD Stage V undergoing evaluation for renal transplantation 
(possible LRRT with brother as donor)
- refractory HTN ___ adrenal hyperplasia
- chronic herpes meningitis on valacyclovir
- recurrent DVT on lifelong AC
- h/o LLE compartment syndrome c/b rhabdomyolysis s/p 
fasciotomies
- pre-diabetes
- h/o nephrolithiasis

- s/p bilateral open adrenalectomy for refractory HTN 
(?pheochromocytoma), in childhood and at age ___ (___ ___
- s/p lap appendectomy ___ ___
- s/p L shoulder surgery ___
- s/p LLE fasciotomies for compartment syndrome (___)
- s/p multiple b/l knee surgeries
 
Social History:
___
Family History:
- father deceased h/o colon cancer with brain metastases
- mother deceased from COPD

 
Physical Exam:
GENERAL: NAD. Comfortable  
Eyes: Anicteric without conjunctival injection  
ENT: MMM. No oral lesions  
NECK: supple.  
___: RRR, no m/r/g  
LUNGS: CTAB, no w/r/c  
ABDOMEN: soft, locally tender in RLQ/LLQ areas, nondistended,
normoactive bowel sounds, no rebound or guarding  
SKIN: Warm. Dry.
 
Pertinent Results:
___ 06:50PM BLOOD WBC-10.0 RBC-3.57* Hgb-10.7* Hct-31.7* 
MCV-89 MCH-30.0 MCHC-33.8 RDW-14.5 RDWSD-46.9* Plt ___
___ 06:50PM BLOOD Glucose-114* UreaN-47* Creat-4.8* Na-144 
K-4.0 Cl-107 HCO3-23 AnGap-14
___ 06:50PM BLOOD ALT-25 AST-19 AlkPhos-89 TotBili-0.3
___ 05:59AM BLOOD Calcium-9.0 Phos-4.9* Mg-2.1
___ 07:16PM BLOOD ___ pO2-51* pCO2-42 pH-7.36 
calTCO2-25 Base XS--1

CLS
no active bleeding found
Grade ___/P
1. No evidence of colonic perforation.  No etiology identified 
for bright red 
blood per rectum. 
2. Unchanged hepatic steatosis. 
3. Left-sided renal cystic lesions are incompletely 
characterized on this 
exam, but most likely represent cysts.  Prior study recommended 
non emergent 
renal ultrasound. 
4. Bilateral, punctate nonobstructing renal stones are unchanged 
compared to 
prior. 

DISCHARGE LABS

___ 05:45AM BLOOD WBC-6.5 RBC-3.29* Hgb-9.6* Hct-28.8* 
MCV-88 MCH-29.2 MCHC-33.3 RDW-13.7 RDWSD-44.3 Plt ___
___ 05:45AM BLOOD Glucose-150* UreaN-35* Creat-4.5* Na-137 
K-4.0 Cl-102 HCO3-22 AnGap-13
___ 05:45AM BLOOD Calcium-8.3* Phos-4.4 Mg-2.0
 
Brief Hospital Course:
# Post-polypetctomy bleeding
Pt had increased bleeding risk given warfarin use, and 
additionally,
enoxaparin given his GFR. 
- GI consulted, no source of bleeding found on colonoscopy. Pt's 
diet was advanced to regular on day of discharge. He was still 
having mild abd TTP but felt it had improved. GI wanted to keep 
him until the pain completely resolved but he preferred to go 
home to take care of his daughter who is special needs. 
Outpatient follow up was scheduled.  
- PO PPI BID given lower likelihood of upper source.
- Held warfarin and enoxaparin while bleeding but restarted 
these on day of discharge (had >24h with no melena or brbpr)

# Abdominal pain
Most likely post-polypectomy electrocoagulation syndrome. Low 
suspicion for infection or perforation given unremarkable CAT 
scan. 
- Continued standing acetaminophen 1g PO TID
- Oxycodone for mod to severe pain
- IV Dilaudid for breakthrough
- Continued Pregabalin 100 mg PO BID 
- instructed to finish course of amoxicillin when discharged and 
take Tylenol and bentyl for pain.
- obtained blood and stool cultures - still pending on day of 
discharge

CHRONIC/STABLE PROBLEMS:

# DVT on lifelong anticoagulation
Last DVT was years ago
- Hold warfarin
- Hold enoxaparin
- restarted on day of discharge

# CKD Stage V undergoing evaluation for renal transplantation 
(possible LRRT with brother as donor).  No current indications
for RRT, ___ actually slightly below recent baseline.
- Monitor lytes and volume status
- Outpatient nephrology follow-up

# HTN ___ adrenal hyperplasia
# Adrenal insufficiency
- Continue amLODIPine 10 mg PO DAILY 
- Continue CloNIDine 0.3 mg PO BID 
- Continue Fludrocortisone Acetate 0.2 mg PO BID 
- Hold Propranolol 80 mg PO BID 
- Continue Hydrocortisone 20 mg PO QAM 
- Continue Hydrocortisone 10 mg PO QHS 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 10 mg PO DAILY 
2. CloNIDine 0.3 mg PO BID 
3. Fludrocortisone Acetate 0.2 mg PO BID 
4. Propranolol 80 mg PO BID 
5. ValACYclovir 500 mg PO DAILY 
6. Warfarin 2.5 mg PO 6X/WEEK (___) 
7. Warfarin 5 mg PO 1X/WEEK (___) 
8. Multivitamins 1 TAB PO DAILY 
9. Amitriptyline 10 mg PO QHS 
10. Pantoprazole 40 mg PO Q12H 
11. Pregabalin 100 mg PO BID 
12. Hydrocortisone 20 mg PO QAM 
13. Hydrocortisone 10 mg PO QHS 
14. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
15. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Moderate 
RX *acetaminophen [8 Hour Pain Reliever] 650 mg 1 tablet(s) by 
mouth four times daily Disp #*60 Tablet Refills:*0 
2.  DICYCLOMine 20 mg PO QID 
RX *dicyclomine 20 mg 1 tablet(s) by mouth four times daily Disp 
#*60 Tablet Refills:*0 
3.  Amitriptyline 10 mg PO QHS  
4.  amLODIPine 10 mg PO DAILY  
5.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H - please finish ___.  CloNIDine 0.3 mg PO BID  
7.  Fludrocortisone Acetate 0.2 mg PO BID  
8.  Hydrocortisone 20 mg PO QAM  
9.  Hydrocortisone 10 mg PO QHS  
10.  Multivitamins 1 TAB PO DAILY  
11.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
12.  Pantoprazole 40 mg PO Q12H  
13.  Pregabalin 100 mg PO BID  
14.  Propranolol 80 mg PO BID  
15.  ValACYclovir 500 mg PO DAILY  
16.  Warfarin 5 mg PO 1X/WEEK (___)  - ok to restart this
17.  Warfarin 2.5 mg PO 6X/WEEK (___)  - ok to 
restart this

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Postpolypectomy bleeding and electrocautery syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ were admitted to the hospital with blood in your stool and 
lower abdominal pain. A colonoscopy was performed but 
gastroenterology was unable to find a source for your bleeding. 

___ also have abdominal pain that they believe is related to the 
removal of your polyps. We treated it with Tylenol and oxycodone 
and should resolve within the next few weeks. We have set up a 
PCP and gastroenterology appointment for ___ - they will call 
___ to schedule it. ___ should also complete your 7 day course 
of augmentin
 
Followup Instructions:
___